* source ELECLAB8
D_D1         N00147 0 D1N4001 
V_V3         N01246 0  
+SIN 0 6 10 0 0 0
V_V7         N03260 0  
+SIN 0 5 1k 0 0 0
V_V12         N08094 0  
+SIN 0 2 1000 0 0 0
V_V2         N00504 0  
+SIN 0 6 1000 0 0 0
V_V4         N01704 0  
+SIN 0 5 1000 0 0 0
D_D6         N03260 N03298 D1N4001 
V_V6         N02797 0  
+SIN 0 6 1000 0 0 0
V_V1         N00117 0 0Vdc
V_V13         0 N08199 2Vdc
R_R6         N03325 N03298  1k  
D_D2         N00542 0 D1N4001 
D_D4         N02167 N01762 D1N4001 
R_R1         N00117 N00147  1k  
D_D12         N08199 N08119 D1N4001 
D_D5         N02835 0 D1N4001 
V_V8         N03325 0 2Vdc
R_R9         0 N08119  10k  
R_R5         N02797 N02835  1  
V_V9         N03915 0  
+SIN 0 5 1000 0 0 0
C_C1         N00504 N00542  1u   
V_V10         N05313 0  
+SIN 0 5 1000 0 0 0
C_C4         N08094 N08119  1u   
R_R3         0 N01178  1000k  
R_R4         N01762 N01704  1000k  
R_R7         N03915 N03953  1k  
R_R8         N05313 N05351  1k  
D_D11         0 N03980 BZX84C3V0L 
D_D3         0 N01178 D1N4001 
D_D7         N03953 N03980 D1N4001 
C_C2         N01246 N01178  1u   
R_R2         0 N00542  1000k  
D_D10         N05351 N05378 D1N4001 
V_V5         N02167 0 -2Vdc
V_V11         0 N05378 3Vdc
